### PR TITLE
[Merged by Bors] - chore(GroupTheory/CoprodI): shorten proof of lift_word_prod_nontrivial_of_not_empty

### PR DESCRIPTION
**Pull request by dwrensha**
Replaces 9 lines of proof with a single application of [`lift_word_prod_nontrivial_of_other_i`](https://github.com/leanprover-community/mathlib4/blob/1e45d5cd7e9c7679d447d81fc9def277b54fc02d/Mathlib/GroupTheory/CoprodI.lean#L844).

I observe this change to speed up the time reported by `set_option trace profiler true` from 280 `milliseconds` to 140 milliseconds.

Found via [`tryAtEachStep`](https://github.com/dwrensha/tryAtEachStep).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/CoprodI.lean [hunk 1]
```diff
@@ -894,15 +894,7 @@ theorem lift_word_prod_nontrivial_of_not_empty {i j} (w : NeWord H i j) :
...
-        obtain ⟨h, hn1, -⟩ := Cardinal.three_le hcard 1 1
-        let w' : NeWord H k k :=
-          NeWord.append (NeWord.append (NeWord.singleton h hn1) hh.symm w) hl
-            (NeWord.singleton h⁻¹ (inv_ne_one.mpr hn1))
-        have hw' : lift f w'.prod ≠ 1 :=
-          lift_word_prod_nontrivial_of_head_eq_last f X hXnonempty hXdisj hpp w'
-        intro heq1
-        apply hw'
-        simp [w', heq1]
+        exact lift_word_prod_nontrivial_of_other_i f X hXnonempty hXdisj hpp w hh.symm hl.symm
```
Comment (dwrensha) [inline Mathlib/GroupTheory/CoprodI.lean:897]: The goal here looks like:
```lean
case neg
ι : Type u_1
G : Type u_4
inst³ : Group G
H : ι → Type u_5
inst² : (i : ι) → Group (H i)
f : (i : ι) → H i →* G
α : Type u_6
inst¹ : MulAction G α
X : ι → Set α
hXnonempty : ∀ (i : ι), (X i).Nonempty
hXdisj : Pairwise (Disjoint on X)
hpp : Pairwise fun i j ↦ ∀ (h : H i), h ≠ 1 → (f i) h • X j ⊆ X i
inst : Nontrivial ι
i j : ι
w : NeWord H i j
k : ι
hcard : 3 ≤ #(H k)
hh : i ≠ k
hl : j ≠ k
⊢ (lift f) w.prod ≠ 1
```

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
